US08912330B2
(3-{1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridin-6-yl}phenyl)(morpholin-4-yl)methanone:
To a solution of 6-bromo-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine (75 mg, 0.195 mmol, 1.0 eq) in DMF (1.2 mL), was added Pd(PPh3)4 (15 mg), 2.0 M K2CO3 (1.0 mL), and [3-(morpholin-4-ylcarbonyl)phenyl]boronic acid (1.8 eq, 0.351 mmol). The reaction mixture was microwaved at 90° C. for 30 minutes. The upper layer was removed with a pipette, filtered, and purified with preparation HPLC to give the product.

reactant | 6-bromo-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine | 0.195 mmol, 75 mg, 1.0 eq | BrC=1C=C2C(=NC1)C=CN2OC(C)C2=C(C(=CC=C2Cl)F)Cl | C15H10BrCl2FN2O
reactant | K2CO3 | 2.0 M, 1.0 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | [3-(morpholin-4-ylcarbonyl)phenyl]boronic acid | 0.351 mmol, 1.8 eq | N1(CCOCC1)C(=O)C=1C=C(C=CC1)B(O)O | C11H14BNO4
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3-{1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridin-6-yl}phenyl)(morpholin-4-yl)methanone | ClC1=C(C(=CC=C1F)Cl)C(C)ON1C=CC2=NC=C(C=C21)C=2C=C(C=CC2)C(=O)N2CCOCC2 | C26H22Cl2FN3O3
